US03974278
A solution of 5.8 g of 3-iodobenzaldehyde, 4.4 g of γ-ethoxyacetoacetic acid ethyl ester and 3.3 g of β-aminocrotonic acid ethyl ester in 30 ml of ethanol is heated to the boil overnight and is then cooled. After cooling, 2-ethoxymethyl-6-methyl-4-(3'-iodophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester is obtained in a yield of 60% of theory in the form of light yellow crystals which melt at 124°C.

reactant | 3-iodobenzaldehyde | 5.8 g | IC=1C=C(C=O)C=CC1 | C7H5IO
reactant | γ-ethoxyacetoacetic acid ethyl ester | 4.4 g | C(C)OC(CC(=O)COCC)=O | C8H14O4
reactant | β-aminocrotonic acid ethyl ester | 3.3 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-ethoxymethyl-6-methyl-4-(3'-iodophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | yield of 60% | C(C)OC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)I)C(=O)OCC)C)COCC | C21H26INO5
